US03975374
Part A. 1-(5-O-Tosyl-3-deoxy-β-D-threopentofuranosyl)-uracil
With moisture excluded, a solution consisting of 228 mg. (1.0 millimoles) of 1-(3-deoxy-β-D-threopentofuranosyl)-uracil [Prepared according to the method described by Horwitz et al., J. Org. Chem. 31, pp. 205--211 (1966)] and 2.5 ml. pyridine was chilled to 0° C. and a solution consisting of 236 mg. (1.24 millimoles) p-toluenesulfonyl chloride and 2.5 ml. pyridine was added dropwise while the temperature of the reaction mixture was maintained at 0° C. The reaction vessel was securely sealed and set aside at 3° to 5° C. for about 16 hrs. Afterwards, a small portion of crushed ice was added to the reaction mixture and refrigeration was continued for about 1 to 2 hrs. This mixture was further diluted with 50 ml. of ice-cold water and the dilute aqueous solution was extracted three times with 30 ml. portions of chloroform. The chloroform extracts were combined and dried over anhydrous sodium sulfate. After removing the chloroform by evaporation under reduced pressure, the residue thus obtained was dissolved in hot absolute ethanol. Some decolorizing charcoal was added to the ethanol solution, the charcoal was removed by filtration, and the filter was washed with hot absolute ethnol. The ethanol was removed from the combined filtrate and washings under reduced pressure, and the residue thus obtained was azeotroped with absolute ethanol under reduced pressure. There was thus obtained 182.8 mg. of 1-(5-O-tosyl- 3-deoxy-β-D-threopentofuranosyl)uracil as an amorphous solid.

reactant | 1-(3-deoxy-β-D-threopentofuranosyl)-uracil | 1.0 millimoles | [C@@H]1([C@@H](O)C[C@H](O1)CO)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 1.24 millimoles | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | charcoal | C | CH4
solvent | ethanol | C(C)O | C2H6O
product | 1-(5-O-Tosyl-3-deoxy-β-D-threopentofuranosyl)-uracil | S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@@H]1C[C@@H]([C@@H](O1)N1C(=O)NC(=O)C=C1)O | C16H18N2O7S
